US04954504
t-Butyl p-(cyanomethyl)-phenylacrylate (6.0 g) is combined with 600 mg 10% palladium on carbon in 80 ml isopropanol and 24 ml 1N HCl and treated with hydrogen at room temperature. After 8 hours at 3 atmospheres pressure, the catalyst is filtered off and the filtrate concentrated under vacuum. The residue is triturated with ether, filtered and dried under vacuum to afford t-butyl p-(2-aminoethyl)-phenylpropionate hydrochloride as a white solid. The hydrochloride salt is partitioned between ethyl acetate and 1N NaOH. The ethyl acetate extract is washed with a saturated NaCl solution and dried over MgSO4. Filtration and concentration of the filtrate affords t-butyl p-(2-aminoethyl)-phenylpropionate as a yellow oil; NMR (CDCl3): 7.1 (4H,s), 2.98 (2H,t), 2.89 (2H,t) 2.73 (2H,t), 2.5 (2H,t), 2.02 (2H,s), 1.42 (9H,s).

reactant | t-Butyl p-(cyanomethyl)-phenylacrylate | 6.0 g | C(#N)CC1=CC=C(C=C1)C(C(=O)OC(C)(C)C)=C | C15H17NO2
reactant | hydrogen | [H][H] | H2
reactant | HCl | 1N, 24 ml | Cl | ClH
catalyst | palladium on carbon | 600 mg | [Pd] | Pd
solvent | isopropanol | 80 ml | C(C)(C)O | C3H8O
product | t-butyl p-(2-aminoethyl)-phenylpropionate hydrochloride | Cl.NCCC1=CC=C(C=C1)C(C(=O)OC(C)(C)C)C | InChI=1S/C15H23NO2.ClH/c1-11(14(17)18-15(2,3)4)13-7-5-12(6-8-13)9-10-16;/h5-8,11H,9-10,16H2,1-4H3;1H
